US03951993
Upon boiling a solution of 5.3 g of pyridine-4-aldehyde and 17.5 g of 3-amino-3-ethylmercaptoacrylic acid ethyl ester in 100 ml of ethanol for 5 hours, 2-amino-4-(4-pyridyl)-6-ethylmercapto-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 156°C is obtained.

reactant | pyridine-4-aldehyde | 5.3 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | 3-amino-3-ethylmercaptoacrylic acid ethyl ester | 17.5 g | C(C)OC(C=C(SCC)N)=O | C7H13NO2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-4-(4-pyridyl)-6-ethylmercapto-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(N=C(C(C1C1=CC=NC=C1)C(=O)OCC)SCC)N | C18H23N3O4S
